US07491718B2
2-[(tert-butoxycarbonyl)amino]-6-methoxybenzoic acid
A mixture of 2-amino-6-methoxybenzoic acid (1.64 g, 9.8 mmol), di-tert-butyldicarbonate (2.25 g 10.3 mmol), acetonitrile (16 mL), and triethylamine (1.5 mL, 10.8 mmol) was stirred for 18 hours and concentrated. The concentrate was purified on a Biotage silica gel cartridge (40 g) with 1% methanol/dichloromethane to provide the desired product. MS (ESI(+)) m/e 268 (M+H)+, 285 (M+NH4)+, 290 (M+Na)+; (ESI(−)) m/e 266 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 13.01 (br s, 1H), 8.77 (s, 1H), 7.34 (m, 2H), 6.82 (m, 1H), 3.78 (s, 3H), 1.44 (s, 9H).

reactant | 2-amino-6-methoxybenzoic acid | 9.8 mmol, 1.64 g | NC1=C(C(=O)O)C(=CC=C1)OC | C8H9NO3
reactant | di-tert-butyldicarbonate | 10.3 mmol, 2.25 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | 2-[(tert-butoxycarbonyl)amino]-6-methoxybenzoic acid | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C(=CC=C1)OC | C13H17NO5
